US07259178B2
To a solution of 0.5 g (1.24 mmol) of ethyl-[4-(2,2,2-trifluoro-1-triethylsilanyloxy-1-trifluoromethyl-ethyl)-phenyl]-amine in 2 mL of DMF were added 0.3 mL (2.5 mmol) of benzylbromide and the mixture was stirred overnight at 80° C. After distribution between a 2M aqueous solution of NaOH and Et2O, drying of the combined organic phases over Na2SO4 and evaporation, the resulting crude was dissolved in 5 mL of MeOH, treated with 1 mL of a 2M NaOMe-solution in MeOH and stirred for 30 min. Evaporation of the solvent and column chromatography on silica gel with n-heptane/EtOAc 95:5 gave 0.33 g (70%) of 2-[4-(benzyl-ethyl-amino)-phenyl]-1,1,1,3,3,3-hexafluoro-propan-2-ol, light yellow semisolid, MS: 378 (MH+).

reactant | ethyl-[4-(2,2,2-trifluoro-1-triethylsilanyloxy-1-trifluoromethyl-ethyl)-phenyl]-amine | 1.24 mmol, 0.5 g | C(C)NC1=CC=C(C=C1)C(C(F)(F)F)(C(F)(F)F)O[Si](CC)(CC)CC | C17H25F6NOSi
reactant | benzylbromide | 2.5 mmol, 0.3 mL | C(C1=CC=CC=C1)Br | C7H7Br
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
product | 2-[4-(benzyl-ethyl-amino)-phenyl]-1,1,1,3,3,3-hexafluoro-propan-2-ol | 0.33 g, 70% | C(C1=CC=CC=C1)N(C1=CC=C(C=C1)C(C(F)(F)F)(C(F)(F)F)O)CC | C18H17F6NO
